US07071182B2
4-(1,1′-biphenyl-4-yl)-4-oxo-N-[1-(2-pyrrolidin-1-ylethyl)-1H-indazol-6-yl]butanamide
According to the procedure for Example 49, 1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-6-ylamine and 4-biphenyl-4-yl-4-oxo-butyric acid were processed to provide the title compound. 1H NMR (500 MHz, DMSO-d6) δ ppm 1.80 (m, 2 H), 1.97 (m, 2 H), 2.83 (t, J=6.10 Hz, 2 H), 3.02 (m, 2 H), 3.41 (t, J=6.26 Hz, 2 H), 3.50 (m, 2 H), 3.69 (m, 2 H), 4.66 (t, J=6.26 Hz, 2 H), 7.11 (m, 1 H), 7.45 (m, 1 H), 7.52 (m, 2 H), 7.72 (m, 1 H), 7.77 (m, 2 H), 7.86 (m, 2 H), 8.10 (m, 3 H), 8.29 (s, 1 H), 9.56 (br s, N H); MS (DCI/NH3) m/z 467 (M+H)+.

reactant | 1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-6-ylamine | N1(CCCC1)CCN1N=CC2=CC=C(C=C12)N | C13H18N4
reactant | 4-biphenyl-4-yl-4-oxo-butyric acid | C1(=CC=C(C=C1)C(CCC(=O)O)=O)C1=CC=CC=C1 | C16H14O3
product | 4-(1,1′-biphenyl-4-yl)-4-oxo-N-[1-(2-pyrrolidin-1-ylethyl)-1H-indazol-6-yl]butanamide | C1(=CC=C(C=C1)C(CCC(=O)NC1=CC=C2C=NN(C2=C1)CCN1CCCC1)=O)C1=CC=CC=C1 | C29H30N4O2
